US06620828B2
{3-[5-(2,4-Diaminothiazol-5-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-carbamic acid tert-butyl ester
A solution of 1.3 mmol of (3-{5-[4-amino-2-(trityl-amino)-thiazol-5-yl]-[1,2,4]oxadiazol-3-yl}-phenyl)-carbamic acid tert-butyl ester, prepared as described in Example B(1), dissolved in 8 ml of 1:1 formic acid/diethyl ether was stirred at room temperature until the starting material had been consumed by TLC (typically 5 h). The resulting light yellow solution was stripped of all solvent in vacuo, heated gently under high vacuum to remove residual formic acid, and then recrystallized from methylene chloride, giving 255 mg of the title compound (53% yield) as a light-yellow powder.

reactant | (3-{5-[4-amino-2-(trityl-amino)-thiazol-5-yl]-[1,2,4]oxadiazol-3-yl}-phenyl)-carbamic acid tert-butyl ester | 1.3 mmol | C(C)(C)(C)OC(NC1=CC(=CC=C1)C1=NOC(=N1)C1=C(N=C(S1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N)=O | C35H32N6O3S
solvent | formic acid diethyl ether | 8 ml | C(=O)O.C(C)OCC
product | {3-[5-(2,4-Diaminothiazol-5-yl)-[1,2,4]oxadiazol-3-yl]-phenyl}-carbamic acid tert-butyl ester | 255 mg, 53% yield | C(C)(C)(C)OC(NC1=CC(=CC=C1)C1=NOC(=N1)C1=C(N=C(S1)N)N)=O | C16H18N6O3S
